US08349880B2
Step H (2): 5-(2-Methoxy-4-nitrophenyl)-3-methylisoxazole (750 mg, 3.2 mmol) was added portionwise (exotherm observed) to a stirred mixture of tin(II) chloride (3.0 g), concentrated hydrochloric acid (3.0 mL), methanol (3.8 mL), and THF (15 mL). The resulting mixture was stirred at rt for 3 h. The solvent was removed in vacuo. The residue diluted with water and extracted with MTBE. The aqueous layer was basified with 10% NaOH solution to pH 13. The basic solution was extracted with chloroform. The organic layer was dried over sodium sulfate, filtered, and concentrated to afford 3-methoxy-4-(3-methylisoxazol-5-yl)aniline (550 mg, 84% yield).

reactant | 5-(2-Methoxy-4-nitrophenyl)-3-methylisoxazole | 3.2 mmol, 750 mg | COC1=C(C=CC(=C1)[N+](=O)[O-])C1=CC(=NO1)C | C11H10N2O4
reactant | tin(II) chloride | 3.0 g | [Sn](Cl)Cl
reactant | hydrochloric acid | 3.0 mL | Cl | ClH
reactant | methanol | 3.8 mL | CO | CH4O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-methoxy-4-(3-methylisoxazol-5-yl)aniline | 550 mg, 84% yield | COC=1C=C(N)C=CC1C1=CC(=NO1)C | C11H12N2O2
